US06169102A
To a mixture of 6-fluoro-3-(1-isopropylamino)ethylindole (435 mg), benzyl 2-dimethylamino-4-oxo-2-oxazolin-5-carboxylate (518 mg) in acetonitrile (15 ml) was added tri-n-butylphosphine (492 μl). The mixture was refluxed for 2.5 hours. Removal of the solvent gave a residue, to which a mixture of ethyl acetate and ethyl ether in a ration of 10:1 was added to provide benzyl 2-dimethylamino-5-[1-(6-fluoroindol-3-yl)ethyl]-4-oxo-2-oxazolin-5-carboxylate (509 mg) as a crystal.

reactant | 6-fluoro-3-(1-isopropylamino)ethylindole | 435 mg | FC1=CC=C2C(=CNC2=C1)CCNC(C)C | C13H17FN2
reactant | benzyl 2-dimethylamino-4-oxo-2-oxazolin-5-carboxylate | 518 mg | CN(C=1OC(C(N1)=O)C(=O)OCC1=CC=CC=C1)C | C13H14N2O4
reactant | tri-n-butylphosphine | 492 μl | C(CCC)P(CCCC)CCCC | C12H27P
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | ethyl ether | C(C)OCC | C4H10O
product | benzyl 2-dimethylamino-5-[1-(6-fluoroindol-3-yl)ethyl]-4-oxo-2-oxazolin-5-carboxylate | 509 mg | CN(C=1OC(C(N1)=O)(C(=O)OCC1=CC=CC=C1)C(C)C1=CNC2=CC(=CC=C12)F)C | C23H22FN3O4
